US09447078B2
2-Propylpentyl 5-((2-propylpentyl)oxy)furan-2-carboxylate (0.62 g, 1.76 mmol), NaOMe (30% in MeOH, 2 mL) in anhydrous MeOH (75 mL) were stirred at room temperature overnight then concentrated under reduced pressure. The residue was partitioned between aqueous NH4Cl (25%) and hexanes. Organic layer was washed with brine, dried over anhydrous MgSO4, concentrated under reduced pressure. Flash chromatography purification (5%-20% EtOAc—hexanes gradient) gave methyl 5-((2-propylpentyl)oxy)furan-2-carboxylate as a colorless oil. Yield (0.38 g, 85%); 1H NMR (400 MHz, CDCl3) δ 7.12 (d, J=4.0 Hz, 1H), 5.27 (d, J=3.5 Hz, 1H), 3.99 (d, J=5.9 Hz, 2H), 3.03 (s, 3H), 1.74-1.83 (m, 1H), 1.20-1.40 (8H), 0.86-0.94 (m, 6H).

reactant | 2-Propylpentyl 5-((2-propylpentyl)oxy)furan-2-carboxylate | 1.76 mmol, 0.62 g | C(CC)C(COC1=CC=C(O1)C(=O)OCC(CCC)CCC)CCC | C21H36O4
reactant | NaOMe | 2 mL | C[O-].[Na+]
solvent | MeOH | 75 mL | CO | CH4O
product | methyl 5-((2-propylpentyl)oxy)furan-2-carboxylate | C(CC)C(COC1=CC=C(O1)C(=O)OC)CCC | C14H22O4
